US04230862
To a solution of about 50 grams (0.24 mole) of p-methoxyphenylmagnesium bromide in tetrahydrofuran (THF) were added at room temperature 30.2 grams (0.08 mole) of 1-(p-benzyloxybenzoyl)-6-methoxy-2-tetralone dissolved in THF. Upon completion of the addition, the entire mixture was warmed to 45° C. Analysis of a sample of the mixture by thin-layer chromatography (TLC) showed the absence of starting material. The mixture then was poured into aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The ethyl acetate extract was washed, dried, and evaporated. The resulting residue was dissolved in benzene, and a catalytic amount of p-toluenesulfonic acid was added. The mixture was stirred at room temperature until a TLC of the mixture indicated the absence of any carbinol intermediate. The mixture then was washed with water, dried, and concentrated. The residue was chromatographed over one kg. of alumina using 6 l. of benzene. The product was eluted with a mixture of 2 percent ethyl acetate in benzene. The product, 3-(4-methoxyphenyl-4-(4-benzyloxybenzoyl)-7-methoxy-1,2-dihydronaphthalene was obtained as an oil.

reactant | p-methoxyphenylmagnesium bromide | 0.24 mole, about 50 grams | COC1=CC=C(C=C1)[Mg]Br
reactant | 1-(p-benzyloxybenzoyl)-6-methoxy-2-tetralone | 0.08 mole, 30.2 grams | C(C1=CC=CC=C1)OC1=CC=C(C(=O)C2C(CCC3=CC(=CC=C23)OC)=O)C=C1 | C25H22O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-methoxyphenyl-4-(4-benzyloxybenzoyl)-7-methoxy-1,2-dihydronaphthalene | COC1=CC=C(C=C1)C1CC=C(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C32H28O4
